US07754737B2
To a stirred mixture of (3R)-3-((S)-1-(3-bromophenyl)-1-hydroxy-5-methoxypentyl)-N—((S)-1-cyclohexyl-3-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)propan-2-yl)piperidine-1-carboxamide (40.0 mg, 0.06 mmol) in DMF (0.5 mL), was added CuCN (excess), and the resulting solution was heated in a CEM microwave reactor at 220° C. for 20 min. The mixture was cooled to rt, and purified by preparative HPLC to give (3R)-3-((S)-1-(3-Cyanophenyl)-1-hydroxy-5-methoxypentyl)-N—((S)-1-cyclohexyl-3-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)-amino)propan-2-yl)piperidine-1-carboxamide (8.0 mg, 22%). MS m/z 665 (M+Na+).

reactant | (3R)-3-((S)-1-(3-bromophenyl)-1-hydroxy-5-methoxypentyl)-N—((S)-1-cyclohexyl-3-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)propan-2-yl)piperidine-1-carboxamide | 0.06 mmol, 40.0 mg | BrC=1C=C(C=CC1)[C@@](CCCCOC)(O)[C@H]1CN(CCC1)C(=O)N[C@@H](CC1CCCCC1)CN(C(=O)OCC[Si](C)(C)C)C | C34H58BrN3O5Si
reactant | CuCN | C(#N)[Cu]
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | (3R)-3-((S)-1-(3-Cyanophenyl)-1-hydroxy-5-methoxypentyl)-N—((S)-1-cyclohexyl-3-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)-amino)propan-2-yl)piperidine-1-carboxamide | 8.0 mg, 22% | C(#N)C=1C=C(C=CC1)[C@@](CCCCOC)(O)[C@H]1CN(CCC1)C(=O)N[C@@H](CC1CCCCC1)CN(C(=O)OCC[Si](C)(C)C)C | C35H58N4O5Si
